US05015655
1-azabicyclo-[2,2,2]-octan-3-carboxaldehyde O-ethyloxime
4.8 cm3 of a 70% aqueous solution of perchloric acid is added at ambient temperature to 2 g of 3-methoxy methylidene quinuclidine in solution in 20 cm3 of chloroform. After agitating for one hour, 1.4 g of O-ethylhydroxylamine hydrochloride in 2.5 cm3 of methanol and 2.5 cm3 of water are added, and the reaction medium is maintained in this way for one night. After concentrating, alkalizing with sodium hydroxide, extracting with ethyl acetate, and distilling at 135° C. under 0.05 mbar, 2.05 g of expected product is obtained.

reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | 3-methoxy methylidene quinuclidine | COC=C1CN2CCC1CC2 | C9H15NO
reactant | O-ethylhydroxylamine hydrochloride | 1.4 g | Cl.C(C)ON
solvent | chloroform | 20 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 2.5 cm3 | CO | CH4O
solvent | water | 2.5 cm3 | O | H2O
product | 1-azabicyclo-[2,2,2]-octan-3-carboxaldehyde O-ethyloxime | 2.05 g | C(C)ON=CC1CN2CCC1CC2 | C10H18N2O
